US09260425B2
Following the procedure of Example 144, 2-(4-(3-(6-fluoropyridin-2-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridin-5-yl)-1H-pyrazol-1-yl)acetic acid and ammonium chloride were reacted to give 60 mg (75%) of 2-(4-(3-(6-Fluoropyridin-2-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridin-5-yl)-1H-pyrazol-1-yl)acetamide. ESI MS m/z 422.2 (M+1).

reactant | 2-(4-(3-(6-fluoropyridin-2-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridin-5-yl)-1H-pyrazol-1-yl)acetic acid | FC1=CC=CC(=N1)C1=NN(C2=CN=C(C=C21)C=2C=NN(C2)CC(=O)O)C2OCCCC2 | C21H19FN6O3
reactant | ammonium chloride | [Cl-].[NH4+]
product | 2-(4-(3-(6-Fluoropyridin-2-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridin-5-yl)-1H-pyrazol-1-yl)acetamide | 60 mg, 75% | FC1=CC=CC(=N1)C1=NN(C2=CN=C(C=C21)C=2C=NN(C2)CC(=O)N)C2OCCCC2 | C21H20FN7O2
